US04288449
1.4 ml of pyridine, and a solution of 7.2 g of benzoyl chloride in 30 ml of acetone, are added to 5 g of 3-amino-4-phenylthio-5-pyrrol-1-yl-sulfonylbenzoic acid methyl ester, dissolved in 25 ml of anhydrous dioxane, and the mixture is stirred at room temperature and subsequently at 40° C. The solvent is stripped off under reduced pressure, the residue is taken up in methylene chloride and the solution is washed with dilute sodium bicarbonate solution. After drying the solution over sodium sulfate, the solvent is stripped off on a rotary evaporator and the residue is recrystallized from methanol/methylene chloride. 3-Benzoylamino-4-phenylthio-5-pyrrol-1-yl-sulfonylbenzoic acid methyl ester of melting point 210°-211° C. is obtained. Yield: 59%.

reactant | pyridine | 1.4 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 7.2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-amino-4-phenylthio-5-pyrrol-1-yl-sulfonylbenzoic acid methyl ester | 5 g | COC(C1C(C(=C(C(=C1)N1C=CC=C1)SC1=CC=CC=C1)N)=S(=O)=O)=O | C18H16N2O4S2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Benzoylamino-4-phenylthio-5-pyrrol-1-yl-sulfonylbenzoic acid methyl ester | Yield: 59% | COC(C1C(C(=C(C(=C1)N1C=CC=C1)SC1=CC=CC=C1)NC(C1=CC=CC=C1)=O)=S(=O)=O)=O | C25H20N2O5S2
